Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
palpitations, presyncope
 
Major Surgical or Invasive Procedure:
Stress MIBI ___

 
History of Present Illness:
OUTPATIENT CARDIOLOGIST: Dr. ___ at ___. Pt switching to 
Dr. ___ as of ___  
.  
PCP: Dr. ___   
HISTORY OF PRESENTING ILLNESS: Mr. ___ is a ___ yo M with ___ 
significant for a fib s/p many cardioversions and minimaze, 
multiple TIAs, 3 embolic strokes, CAD, bipolar d/o, anxiety 
attacks, who on ___, 3 days PTA, experienced an episode of 
A fib with SOB while doing light yardwork leading to an 
overnight admission at ___. There, he was ruled out 
for MI, converted spontaneously into NSR and was sent home 2 
days PTA. He spent the day PTA at home in bed without symptoms.  

.  
On the day of admission, he states he was sitting watching TV 
when he had the sudden onset of palpitations and ___ chest 
pain shooting into the left arm and torso. Of note, he states he 
has had chest pain constantly for the last ___ yrs at ___. This 
morning, he also felt lightheaded and dizzy, stood up and fell 
into his coffee table. He denies LOC or weakness. He then laid 
down, felt himself convert back into NSR while doing breathing 
exercised but still had CP. He also states he felt confused. For 
the last day he has had breathlessness on any exertion. He 
called his PCP who referred him to the ED.  
.  
Vitals in ED: 98.6 63 121/77 20 99. in the ED, he states his 
pain decreased to his baseline ___ with NTG.  
.  
On review of systems, s/he denies any prior history of DVT, PE, 
cough, hemoptysis. S/he denies recent fevers, chills or rigors. 
S/he denies exertional buttock or calf pain. States he has 1 
black stool ___ ago. All of the other review of systems were 
negative. Of note, at baseline he can walk ___ of a block and 
cannot walk up an incline. Uses a cane intermittently.  
.  
Cardiac review of systems is notable for absence of orthopnea, 
ankle edema. He states he does had PND which resolves with 
walking to bathroom everynight around 2:30am. Also notes that he 
has has nose bleeds for the last 48hrs.  

 
Past Medical History:
Pt states he has been hospitalized 67 times since ___- last 
prior to 3 days ago was ___.  
1. CARDIAC RISK FACTORS: none  
2. CARDIAC HISTORY:  
a fib s/p radiofrquency ablations ___ maze ___ at 
least 5 cardioversions  
sick sinus syndrome s/p pacemaker placement ___  
CAD s/p RCA stent ___  
Borderline ascending aortic diameter 3.6 cm  
3. OTHER PAST MEDICAL HISTORY:  
subarachnoid hemorrhage in ___  
embolic strokex3 in ___ and 2 in ___  
TIA- pt reports >4 dozen. Last in ___  
frequent sinus infections and rhinoplasty with deviated septal 
repair in pt___  
bipolar disorder  
insomnia  
anxiety and panic disorder  
RLS- acting up in last ___ wks  
OA of knees and hips  

 
Social History:
___
Family History:
notable for a mother who died at age ___ with breast cancer and 
had diabetes mellitus. His father died at age ___ from an 
automobile accident and survived a ruptured aortic aneurysm per 
Mr. ___ report. States every male on his maternal side 
died of a "heart condition" prior to ___ yrs old. Has 2 sisters 
aged ___ and healthy and ___ with breast ca. 
 
Physical Exam:
VS: T=97.8 BP=121/78 HR=60 RR=18 O2 sat=98% on RA.  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple with JVP not visible. No carotid bruits.  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  

 
Pertinent Results:
Discharge labs:

___ 07:35AM BLOOD WBC-10.1 RBC-4.65 Hgb-14.9 Hct-44.6 
MCV-96 MCH-32.1* MCHC-33.5 RDW-13.4 Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD ___ PTT-34.0 ___
___ 07:35AM BLOOD Glucose-89 UreaN-14 Creat-1.0 Na-142 
K-4.5 Cl-105 HCO3-28 AnGap-14
___ 07:35AM BLOOD CK(CPK)-87
___ 07:35AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 07:35AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.4
.
___ EKG: Atrial pacing 
Inferior T wave changes are nonspecific 
No previous tracing available for comparison 
.
___ Exercise stress test: Good exercise tolerance; however, 
limited by early-onset, progressive shortness of breath. No 
typical anginal symptoms or ischemic ST segment changes at the 
achieved level of cardiac work. 
.
Nuclear report- 
The image quality is satisfactory following the application of a 
motion 
correction algorithm to the rest and stress images. 
Left ventricular cavity size is normal with an EDV of 92 ml. 
Resting and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. 
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 52%. 
IMPRESSION:   
Normal myocardial perfusion to the level of stress achieved. 
Normal LV cavity size with ejection fraction of 52%. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ yo M with PMH significant for a fib s/p many 
cardioversions and minimaze, multiple TIAs, 3 embolic strokes, 
CAD, bipolar d/o, anxiety attacks who comes in s/p episode of 
presyncope with CP and palpitations today.  
.  
# CORONARIES: Negative stress test ___. Pt states CP on 
afternoon of admission was severe. By arrival to the floor, CP 
is at baseline. Pt was ruled out for MI and monitored on tele. 
Atenolol, azetimibe, statin and aspirin were continued. A stress 
MIBI (see full results above) was done prior to discharge and 
was normal. He was discahrged to f/u with his new cardiologist, 
Dr. ___.
.
# PUMP: No h/o CHF, not in CHF by exam here. EF 75% on echo 
___.  
.  
# RHYTHM: Currently in NSR. s/p many cardioversions and maze 
procedure.  Continued coumadin at home dose- INR here was 
therapeutic at 2.6. Continued dofetilide and atenolol at home 
doses. 
.  
# h/o TIA, stroke- no sx this admission. INR therapeutic. 
Continued ASA, coumadin.  
.  
# h/o bipolar disorder- continued home lithium, xanax PRN, 
escitalopram  
 
Medications on Admission:
Tikosyn 500mcg BID  
ASA 81mg BID  
Warfarin 5mg daily  
Vytorin ___ daily  
Wellbutrin XL 300 Daily  
Luthium 300 daily  
Atenolol 25 BID  
Lisinopril 10 daily  
Xanax 0.5 BID prn  
Lexapro 20 daily  

 
Discharge Medications:
1. Dofetilide 500 mcg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO BID (2 times a day).  
3. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
4. Vytorin ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
5. Bupropion HCl 150 mg Tablet Sustained Release Sig: Two (2) 
Tablet Sustained Release PO QAM (once a day (in the morning)).  
6. Lithium Carbonate 300 mg Capsule Sig: One (1) Capsule PO QPM 
(once a day (in the evening)).  
7. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Alprazolam 0.25 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day) as needed.  
9. Escitalopram 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Atenolol 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
Paroxysmal atrial fibrillation
Secondary diagnoses
CAD 
Anxiety d/o NOS

 
Discharge Condition:
Good- chest pain at baseline

 
Discharge Instructions:
You were admitted after an episode of palpitations and chest 
pain during which you almost passed out. While you were here, 
the cardiology team ordered a stress test for you which was 
normal. 
.
We made no changes to your medications.
.
Please follow up as below.
.
Please call your doctor or go to the ED if you have any increase 
in chest pain, fever, shortness of breath, lightheadedness, 
slurred speech, weakness, feeling like you are going to pass out 
or any other concerning symptoms. 
 
Followup Instructions:
___